US04420486
21.3 g of 2-amino-4,5,6-trichlorophenol, 27.6 g of anhydrous potassium carbonate and 150 ml of ethyl acetate were placed in a 300 ml round-bottom flask and a solution of 9.9 g of diphosgen (trichloromethyl chloroformate) dissolved in 50 ml of ethyl acetate was added dropwise to the mixture with stirring under cooling on ice-water bath. The resulting mixture was heated at reflux temperature for one hour and the reaction solution was then cooled and subjected to suction filtration to remove insoluble salts. The filtrate was concentrated to dryness under reduced pressure to afford yellowish white crystals, which were recrystallized from methanol/acetone to give 19.6 g of 5,6,7-trichlorobenzoxazolone as white crystals with a melting point of 253°-254° C.

reactant | 2-amino-4,5,6-trichlorophenol | 21.3 g | NC1=C(C(=C(C(=C1)Cl)Cl)Cl)O | C6H4Cl3NO
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 5,6,7-trichlorobenzoxazolone | 19.6 g | ClC=1C(=C(C2=C(NC(O2)=O)C1)Cl)Cl | C7H2Cl3NO2
